US04276417
8 g. of diisobutyl 6-[3,6-dihydro-1(2H)-pyridyl]-s-triazine-2,4-dicarbamate-3-oxide are dissolved in 300 ml. of methylene chloride and 1000 ml. of water and adjusted to pH 12.7 with concentrated sodium hydroxide. The mixture is stirred for 75 minutes, the organic phase is separated and the aqueous phase is adjusted to pH 4 with 3-N hydrochloric acid solution. The thus-obtained acidic aqueous solution is extracted with methylene chloride. The organic extracts are dried over sodium sulfate and evaporated, there being obtained pure isobutyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazine-7-carbamate having a melting point of 210°-215° C.

reactant | diisobutyl 6-[3,6-dihydro-1(2H)-pyridyl]-s-triazine-2,4-dicarbamate-3-oxide | N1(CCC=CC1)C1=NC(=[N+](C(=N1)NC(=O)OCC(C)C)[O-])NC(=O)OCC(C)C | C18H28N6O5
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | isobutyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazine-7-carbamate | N1(CCC=CC1)C1=NC=2N(C(=N1)NC(=O)OCC(C)C)OC(N2)=O | C14H18N6O4
